US05688807
3-Fluoro-4-methylphenylhydrazine hydrochloride (21.4 g) was prepared as described for 2-bromo-4 methylphenylhydrazine hydrochloride in Example 4, except using 3-fluoro-4-methylaniline as starting material.

reactant | 2-bromo-4 methylphenylhydrazine hydrochloride | Cl.BrC1=C(C=CC(=C1)C)NN
reactant | 3-fluoro-4-methylaniline | FC=1C=C(N)C=CC1C | C7H8FN
product | 3-Fluoro-4-methylphenylhydrazine hydrochloride | 21.4 g | Cl.FC=1C=C(C=CC1C)NN | InChI=1S/C7H9FN2.ClH/c1-5-2-3-6(10-9)4-7(5)8;/h2-4,10H,9H2,1H3;1H
